US09388176B2
Methyl-4-(4-oxopiperidin-1-yl)-benzoate
A solution of methyl-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate (4.87 g, 17.56 mmol) in 10% aqueous sulfuric acid (50 mL) and THF (50 mL) was stirred at ambient temperature for 72 hours. The reaction mixture was neutralized by cautious addition of NaHCO3 and simultaneously diluting with water. The aqueous mixture was extracted with EtOAc (2×75 mL) and the combined organic extracts were dried (MgSO4), filtered, and concentrated to give the title compound as an off-white, amorphous solid (4.06 g, 99%) which was used without further purification.

reactant | methyl-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate | 17.56 mmol, 4.87 g | COC(C1=CC=C(C=C1)N1CCC2(OCCO2)CC1)=O | C15H19NO4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Methyl-4-(4-oxopiperidin-1-yl)-benzoate | COC(C1=CC=C(C=C1)N1CCC(CC1)=O)=O | C13H15NO3
